US04307105
2-(4-Chlorophenyl)-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]thiazole, hydrochloride (1:1)
Following the procedure of Example 1b, 4-chloromethyl-2-(4-chlorophenyl)thiazole (m.p. 66°) is reacted with 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol to yield the title compound, m.p. 108°-110° C. (acetonitrile).

reactant | 4-chloromethyl-2-(4-chlorophenyl)thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(4-Chlorophenyl)-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]thiazole, hydrochloride | Cl.ClC1=CC=C(C=C1)C=1SC=C(N1)COC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C21H16Cl3N3OS.ClH/c22-15-3-1-14(2-4-15)21-26-17(12-29-21)11-28-20(10-27-8-7-25-13-27)18-6-5-16(23)9-19(18)24;/h1-9,12-13,20H,10-11H2;1H
